US05338857
(2) 3-Propionyl-2,1-benzoisoxazole
Added to 75 ml of dry benzene were 5.3 g (45 mmol) of methylmalonic acid and 11.4 g (0.135 mmol) of 3,4-dihydropyran, followed by the addition of 1 droplet of concentrated sulfuric acid under stirring over a water bath. After one hour, 6 g of sodium hydroxide were added. After the resultant mixture was stirred for 5 minutes, an insoluble material was filtered off. Then, 1.8 g of 60% sodium hydride was added in small portions to the filtrate. After evolution of hydrogen gas subsided, a solution of the acid chloride, which had been prepared from 6.5 g (0.04 mol) of 2,1-benzisoxazole-3-carboxylic acid prepared above in the procedure (1) and 30 ml of thionyl chloride in benzene, was added dropwise under ice cooling. After the resultant solution was stirred for 2 hours at room temperature, 6 ml of acetic acid were added, followed by heating under reflux for 8 hours. After ice cooling, water was added and the reaction product was extracted with ethyl acetate. The extract was purified by silica gel chromatography (eluent: 30:1 n-hexane/ethyl acetate), so that 3-propionyl-2,1-benzisoxazole was obtained as colorless crystals. Analytical results of the crystals obtained: Yield: 5.6 g (80%). Melting point: 51°-53° C.

reactant | methylmalonic acid | 45 mmol, 5.3 g | CC(C(=O)O)C(=O)O | C4H6O4
reactant | 3,4-dihydropyran | 0.135 mmol, 11.4 g | O1CCCC=C1 | C5H8O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 6 g | [OH-].[Na+]
reactant | 2,1-benzisoxazole-3-carboxylic acid | 0.04 mol, 6.5 g | N=1OC(=C2C1C=CC=C2)C(=O)O | C8H5NO3
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 3-Propionyl-2,1-benzoisoxazole | C(CC)(=O)C=1ON=C2C1C=CC=C2 | C10H9NO2
